US07723367B2
1-Bromo-4-fluoro-2-(2,2,2-trifluoro-ethoxy)-benzene
2-Bromo-5-fluoro-phenol was reacted with 1,1,1-trifluoro-2-iodo-ethane according to the method of Example 108A to provide the title compound. MS (DCI/NH3) m/z 273 (M)+, 275 (M+2)+.

reactant | 2-Bromo-5-fluoro-phenol | BrC1=C(C=C(C=C1)F)O | C6H4BrFO
reactant | 1,1,1-trifluoro-2-iodo-ethane | FC(CI)(F)F | C2H2F3I
product | 1-Bromo-4-fluoro-2-(2,2,2-trifluoro-ethoxy)-benzene | BrC1=C(C=C(C=C1)F)OCC(F)(F)F | C8H5BrF4O
